US08012499B2
Preparation of 1-[[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]carbonyl]-5-chloro-7-methyl-1H-indole-2,3-dione
To a suspension of 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid (see PCT Patent Publication WO 03/015519 for preparation) (97.6% purity, 13.02 g, 42 mmol) and 5-chloro-7-methylindoline-2,3-dione (K. Tsuji et al., Bioorg. Med. Chem. Letters, 2002, 12(17), pp 2427-2430) (7.82 g, 40 mmol) in dry acetonitrile (50 mL) was added 3-picoline (11.9 g, 127 mmol). The mixture was cooled to 0° C., and then methanesulfonyl chloride (6.87 g, 60 mmol) was added dropwise at 0-10° C. After stirring 5 minutes at this temperature, the mixture was warmed to room temperature for 20 hours. The precipitated solids were filtered, washed with acetonitrile (3×5 mL), and dried under nitrogen to afford the title product, a compound of the present invention, as a yellow powder, 14.90 g (77.6% yield), m.p. 173-177° C. (decomp.).

reactant | 3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxylic acid | 42 mmol, 13.02 g | BrC1=NN(C(=C1)C(=O)O)C1=NC=CC=C1Cl | C9H5BrClN3O2
reactant | 5-chloro-7-methylindoline-2,3-dione | 40 mmol, 7.82 g | ClC=1C=C2C(C(NC2=C(C1)C)=O)=O | C9H6ClNO2
reactant | 3-picoline | 127 mmol, 11.9 g | N1=CC(=CC=C1)C | C6H7N
reactant | methanesulfonyl chloride | 60 mmol, 6.87 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[[3-bromo-1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]carbonyl]-5-chloro-7-methyl-1H-indole-2,3-dione | 77.6% yield | BrC1=NN(C(=C1)C(=O)N1C(C(C2=CC(=CC(=C12)C)Cl)=O)=O)C1=NC=CC=C1Cl | C18H9BrCl2N4O3
